US08242145B2
Step 3: {3-[4-(4-Chloro-benzoylamino)-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester
{3-[4-Amino-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester (0.15 g, 0.38 mmol), 4-chlorobenzoyl chloride (0.15 g, 0.86 mmol), and triethylamine (0.27 mL, 1.9 mmol) were combined in CH2Cl2 (10 mL) and stirred at room temperature until no starting material was seen by analytical tlc. The mixture was concentrated to give the title compound, which was used directly in the hydrolysis step.

reactant | {3-[4-Amino-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | 0.38 mmol, 0.15 g | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)N)CN1C(OCC1)=O)=O | C21H24N2O6
reactant | 4-chlorobenzoyl chloride | 0.86 mmol, 0.15 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | triethylamine | 1.9 mmol, 0.27 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | {3-[4-(4-Chloro-benzoylamino)-2-(2-oxo-oxazolidin-3-ylmethyl)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)Cl)=O)CN1C(OCC1)=O)=O | C28H27ClN2O7
